US06335353B1
1,6-Dimethyl-2-(1-methoxyethyl)-3-hydroxy-pyridin-4(1H)-one hydrochloride
In an analogous hydrogenation procedure in the preparation of 1,6-dimethyl-2-methoxymethyl-3-hydroxy-pyridin-4(1H)-one hydrochloride using 1,6-dimethyl-2-(1-methoxyethyl)-3-benzyloxy-pyridin-4(1H)-one hydrochloride (1.62 g, 5 mmol) and 5% Pd/C catalyst (0.35 g) yield the title compound 1.06 g (90%) after recrystallisation from methanol/diethyl ether, as a white crystalline solid. m.p. 205-207° C.

reactant | 1,6-dimethyl-2-methoxymethyl-3-hydroxy-pyridin-4(1H)-one hydrochloride | Cl.CN1C(=C(C(C=C1C)=O)O)COC
reactant | 1,6-dimethyl-2-(1-methoxyethyl)-3-benzyloxy-pyridin-4(1H)-one hydrochloride | 5 mmol, 1.62 g | Cl.CN1C(=C(C(C=C1C)=O)OCC1=CC=CC=C1)C(C)OC
catalyst | Pd/C | 0.35 g | [Pd] | Pd
product | 1,6-Dimethyl-2-(1-methoxyethyl)-3-hydroxy-pyridin-4(1H)-one hydrochloride | 1.06 g, 90% | Cl.CN1C(=C(C(C=C1C)=O)O)C(C)OC | InChI=1S/C10H15NO3.ClH/c1-6-5-8(12)10(13)9(11(6)3)7(2)14-4;/h5,7,13H,1-4H3;1H
